US07259179B2
6-(1H-Benzimidazol-1-yl)-N-[(1S)-1-(4-methoxyphenyl)ethyl]pyrazin-2-amine
In a procedure analogous to example 25, reaction of 6-chloro-N-[(1S)-1-(4-methoxyphenyl)ethyl]pyrazin-2-amine (105 mg, 0.40 mmol) and benzimidazole (52 mg, 0.44 mmol) furnished the product (57 mg, 41%).

reactant | 6-chloro-N-[(1S)-1-(4-methoxyphenyl)ethyl]pyrazin-2-amine | 0.40 mmol, 105 mg | ClC1=CN=CC(=N1)N[C@@H](C)C1=CC=C(C=C1)OC | C13H14ClN3O
reactant | benzimidazole | 0.44 mmol, 52 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
product | 6-(1H-Benzimidazol-1-yl)-N-[(1S)-1-(4-methoxyphenyl)ethyl]pyrazin-2-amine | 57 mg, 41% | N1(C=NC2=C1C=CC=C2)C2=CN=CC(=N2)N[C@@H](C)C2=CC=C(C=C2)OC | C20H19N5O
